US08048887B2
1-(1-Methyl-1H-imidazol-4-yl) cyclopropanamine
1-Methyl-1H-imidazole-4-carbonitrile (0.5 g, 4.6 mmol, 1 eq) was dissolved in THF, and to which titanium isopropoxide (1.6 g, 5.6 mmol, 2.5 eq) was added dropwise over 15 minutes. The mixture was stirred for 15 minutes at room temperature, and then ethyl magnesium bromide (1.6 g, 11.5 mmol, 2.5 eq) was added at room temperature over 15 minutes. The reaction mixture was stirred for 1 h. BF3 etherate (0.8 g, 5.6 mmol, 2.2 eq) was added and the mixture stirred at room temperature for 1 h. 1 N NaOH solution was added to the mixture to bring the pH to 9-10. Reaction mass was filtered through CELITE® and the filtrate washed with DCM. The organic mixture was concentrated and the residue purified by flash chromatography on silica gel using 10% chloroform/methanol. Yield: 0.6 g 1H NMR (400 MHz, CDCl3): δ 0.97 (t, J=3.4 Hz, 2H), 1.00 (t, J=3.4 Hz, 2H), 3.63 (s, 3H), 7.28 (s, 1H), 7.31 (s, 1H). LCMS: (ES+) m/z=138.2 (M+H).

reactant | 1-Methyl-1H-imidazole-4-carbonitrile | 4.6 mmol, 0.5 g, 1 eq | CN1C=NC(=C1)C#N | C5H5N3
reactant | ethyl magnesium bromide | 11.5 mmol, 1.6 g, 2.5 eq | C(C)[Mg]Br
reactant | BF3 | 5.6 mmol, 0.8 g, 2.2 eq | B(F)(F)F | BF3
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | titanium isopropoxide | 5.6 mmol, 1.6 g, 2.5 eq | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(1-Methyl-1H-imidazol-4-yl) cyclopropanamine | CN1C=NC(=C1)C1(CC1)N | C7H11N3
